US04019892
A solution containing 10.25g (0.05 mole) of 2,4-dichlorophenoxyacetaldehyde, 5.1g (0.055 mole) of thioglycolic acid and 15g (0.15 mole) of boron trifluoride etherate in 250 ml of ether was stirred at ambient temperature for 2 hours, washed with 5% aqueous sodium carbonate, dried, concentrated, and triturated with hexane to give 5.6g of 2-(2,4-dichlorophenoxymethyl)-1,3-oxathiolan-5-one as an off-white crystalline solid melting at 59°-61°.

reactant | 2,4-dichlorophenoxyacetaldehyde | 0.05 mole, 10.25g | ClC1=C(OCC=O)C=CC(=C1)Cl | C8H6Cl2O2
reactant | thioglycolic acid | 0.055 mole, 5.1g | C(CS)(=O)O | C2H4O2S
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | ether | 250 ml | CCOCC | C4H10O
product | 2-(2,4-dichlorophenoxymethyl)-1,3-oxathiolan-5-one | 5.6g | ClC1=C(OCC2OC(CS2)=O)C=CC(=C1)Cl | C10H8Cl2O3S
